US05366987
N-(2,4-Difluorophenyl)-2-dodecyl-2H-tetrazole-5-propanamide
In a manner similar to Example 34, 2-dodecyl-2H-tetrazole-5-propanoic acid was condensed with 2,4-difluoroaniline to give the title compound, mp 86°-87° C.

reactant | 2-dodecyl-2H-tetrazole-5-propanoic acid | C(CCCCCCCCCCC)N1N=C(N=N1)CCC(=O)O | C16H30N4O2
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
product | N-(2,4-Difluorophenyl)-2-dodecyl-2H-tetrazole-5-propanamide | FC1=C(C=CC(=C1)F)NC(CCC=1N=NN(N1)CCCCCCCCCCCC)=O | C22H33F2N5O
